US04105628
In a 500-ml three-necked flask, 4 g (= 0.1 mole) of sodium hydroxide was dissolved at 60° C in 270 ml of methyl glycol, and 48.9 g of pentabromophenol was stirred in for the preparation of a phenolate solution, as in Example 8c. At 30° to 34° C, 18.9 g (- 0.1 mole) of o-chloromethylbenzoyl chloride was added drop by drop, with stirring, over a period of about 40 minutes, whereupon a white, crystalline preciptate settled out, which after 1 hour was suction filtered. After the product had been stirred up in water, suction filtered, washed and dried, 58 g (= 90.5%) of o-chloromethylbenzoic acid pentabromophenyl ester was obtained, which melted at 201°-205° C.

reactant | sodium hydroxide | 0.1 mole, 4 g | [OH-].[Na+]
reactant | pentabromophenol | 48.9 g | BrC1=C(C(=C(C(=C1O)Br)Br)Br)Br | C6HBr5O
reactant | phenolate | C1(=CC=CC=C1)[O-]
reactant | o-chloromethylbenzoyl chloride | 0.1 mole, 18.9 g | ClCC1=C(C(=O)Cl)C=CC=C1 | C8H6Cl2O
solvent | methyl glycol | 270 ml | COCCO | C3H8O2
product | o-chloromethylbenzoic acid pentabromophenyl ester | 58 g, 90.5% | BrC1=C(C(=C(C(=C1OC(C1=C(C=CC=C1)CCl)=O)Br)Br)Br)Br | C14H6Br5ClO2
